US07700641B2
Following the procedure described in EXAMPLE 10.47, and making non-critical variations using 6-(trifluoromethoxy)spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one to replace 4′-bromospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one, and 2-(bromomethyl)pyridine hydrobromide to replace 2-(bromomethyl)-2-(trifluoromethyl)furan, 1′-(pyridin-2-ylmethyl)-6-(trifluoromethoxy)spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one was obtained, which was treated with 4.0 M HCl in dioxane to give the title compound (39%): mp 150-152° C.; 1H NMR (300 MHz, CD3OD) δ 8.89-8.78 (m, 1H), 8.62-8.47 (m, 1H), 8.07-7.00 (m, 2H), 7.42-6.70 (m, 7H), 5.52-5.31 (m, 2H), 5.05 (d, 1H), 4.89 (d, 1H); 13C NMR(75 MHz, CD3OD) δ 179.4, 163.5, 153.1, 152.7, 148.2, 143.8, 142.8, 133.1, 130.6, 129.3, 127.4, 126.8, 125.7, 125.6, 125.4, 114.9, 110.4, 104.9, 82.0, 58.9, 43.0; MS (ES+) m/z 413 (M+1).

reactant | 6-(trifluoromethoxy)spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | FC(OC1=CC2=C(C=C1)C1(C(NC3=CC=CC=C13)=O)CO2)(F)F | C16H10F3NO3
reactant | 4′-bromospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | BrC1=C2C3(C(NC2=CC=C1)=O)COC=1C3=CC3=C(OCO3)C1 | C16H10BrNO4
reactant | 2-(bromomethyl)pyridine hydrobromide | Br.BrCC1=NC=CC=C1
reactant | 2-(bromomethyl)-2-(trifluoromethyl)furan | BrCC1(OC=CC1)C(F)(F)F | C6H6BrF3O
product | 1′-(pyridin-2-ylmethyl)-6-(trifluoromethoxy)spiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | N1=C(C=CC=C1)CN1C(C2(C3=CC=CC=C13)COC1=C2C=CC(=C1)OC(F)(F)F)=O | C22H15F3N2O3
